US07612099B2
2-{[3-(2-Amino-ethyl)-5-methyl-1H-indol-2-yl]-phenyl-methyl}-3-hydroxy-4-phenyl-cyclopent-2-enone
Using general procedure C, 3-hydroxy-4-phenyl-cyclopent-2-enone (Lit. 17) was reacted with benzaldehyde and 2-(5-ethyl-1H-indol-3-yl)-ethylamine to give the title compound as orange solid. MS: 437.1 ([M+H]+).

reactant | 3-hydroxy-4-phenyl-cyclopent-2-enone | OC1=CC(CC1C1=CC=CC=C1)=O | C11H10O2
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | 2-(5-ethyl-1H-indol-3-yl)-ethylamine | C(C)C=1C=C2C(=CNC2=CC1)CCN | C12H16N2
product | 2-{[3-(2-Amino-ethyl)-5-methyl-1H-indol-2-yl]-phenyl-methyl}-3-hydroxy-4-phenyl-cyclopent-2-enone | NCCC1=C(NC2=CC=C(C=C12)C)C(C=1C(CC(C1O)C1=CC=CC=C1)=O)C1=CC=CC=C1 | C29H28N2O2
